US07405215B2
a.) 1-Chloro-4-(5-chloro-2-methyl-1H-indol-3-yl)-phthalazine (Scheme 3)
5-Chloro-2-methylindole (0.74 g, 2.26 mmol) and 1,4-dichloro-phthalazine (0.45 g, 2.26 mmol) were treated with 30 mL of 1,2-dichloroethane and 3.2 mmol of AlCl3 (427 mg). The resulting suspension was heated to 65° C. overnight. The reaction was cooled and quenched with 3 mL water. The resultant precipitate was filtered and dried under vacuum to give 0.65 g of the sub-title compound. MS: ESI (negative): 326, 328 (M−H).

reactant | 5-Chloro-2-methylindole | 2.26 mmol, 0.74 g | ClC=1C=C2C=C(NC2=CC1)C | C9H8ClN
reactant | 1,4-dichloro-phthalazine | 2.26 mmol, 0.45 g | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | AlCl3 | 3.2 mmol, 427 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 1-Chloro-4-(5-chloro-2-methyl-1H-indol-3-yl)-phthalazine | 0.65 g | ClC1=NN=C(C2=CC=CC=C12)C1=C(NC2=CC=C(C=C12)Cl)C | C17H11Cl2N3
